US05532370
This compound is prepared in a manner analogous to that of Step A of Example 2, using 36.3 grams (0.15 mole) of 3,5-di(trifiuoromethyl)benzaldehyde, 22.0 grams (0.17 mole) of ethylacetoacetate, 2 mL of piperidine, and 3 mL of glacial acetic acid in 250 mL of toluene, yielding ethyl 3-oxo-2-[3,5-di(trifluoromethyl)phenylmethylidene]butanoate.

reactant | 3,5-di(trifiuoromethyl)benzaldehyde | 0.15 mole, 36.3 grams | FC(C=1C=C(C=O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O
reactant | ethylacetoacetate | 0.17 mole, 22.0 grams | C(C)OC(CC(=O)C)=O | C6H10O3
reactant | piperidine | 2 mL | N1CCCCC1 | C5H11N
reactant | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-oxo-2-[3,5-di(trifluoromethyl)phenylmethylidene]butanoate | O=C(C(C(=O)OCC)=CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C15H12F6O3
